US07935699B2
To a solution of 2,3-dihydro-benzo[b]thiophene (1.88 g, 13.8 mmol) in methylene chloride (20 mL) at −10° C. was added dropwise a solution of acetyl chloride (1.85 mL, 25.9 mmol) and aluminum chloride (1.84 g, 13.8 mmol) in methylene chloride (20 mL) keeping the temperature below −6° C. during the addition period. After the addition is complete the reaction mixture was stirred for an additional 30 min at −10° C. and then added ice (40 mL) and concentrated hydrochloric acid (6 mL) and extracted with methylene chloride (3×20 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. Purification on an AnaLogix Intelliflash system (80 g column, 10% diethyl ether/hexanes) afforded 1-(2,3-dihydro-benzo[b]thiophen-5-yl)-ethanone (1.93 g, 78%) as a clear colorless oil.

reactant | 2,3-dihydro-benzo[b]thiophene | 13.8 mmol, 1.88 g | S1C2=C(CC1)C=CC=C2 | C8H8S
reactant | acetyl chloride | 25.9 mmol, 1.85 mL | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 13.8 mmol, 1.84 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,3-dihydro-benzo[b]thiophen-5-yl)-ethanone | 1.93 g, 78% | S1C2=C(CC1)C=C(C=C2)C(C)=O | C10H10OS
